US06121271
4-[4-(9-Bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2, 6-dimethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid tert-butyl ester
At ambient temperature, to a stirred suspension of 4-[4-(9-bromo-2, 3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid (1.033 g, 1.689 mmol) in EtOAc (16.89 mL) was added a solution of t-butyl 2,2,2-trichloroacetimidate (0.7690 g, 3.379 mmol) in cyclohexane (3.379 mL). After 24 h, the reaction was concentrated in vacuo, suspended in CH2Cl2 (10 mL), filtered through a 1"silica gel pad and eluted with 10% acetone/hexane. The filtrate was concentrated to give 0.778 g (69%) of the title compound as an off white solid, mp 168-172° C. 1H NMR (DMSO-d6) δ 1.57 (s, 12 H), 2.15 (s, 6 H), 2.43 (s, 3 H), 7.18 (s, 2 H), 7.45-7.55 (m, 4 H), 7.65 (t, 1 H), 7.96 (d, 1 H), 8.19 (d, 1 H), 10.75 (s, 1 H). IR (KBr) 3400, 2900, 1680, 1380 and 1140 cm-1. mass spectrum (-ESI) m/z 665/667 (M-H). Anal. Calcd. for C33H31BrO6S2 : C, 59.37; H, 4.68; N, 0.00. Found: C, 59.33; H, 4.44; N, 0.10.

reactant | 4-[4-(9-bromo-2, 3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid | 1.689 mmol, 1.033 g | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(OS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O)C(=C2)C)C | C29H23BrO6S2
reactant | t-butyl 2,2,2-trichloroacetimidate | 3.379 mmol, 0.7690 g | ClC(C(OC(C)(C)C)=N)(Cl)Cl | C6H10Cl3NO
solvent | EtOAc | 16.89 mL | CCOC(=O)C | C4H8O2
solvent | cyclohexane | 3.379 mL | C1CCCCC1 | C6H12
product | 4-[4-(9-Bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2, 6-dimethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid tert-butyl ester | 0.778 g, 69% | C(C)(C)(C)OC(C1=C(C=C(C=C1)S(=O)(=O)OC1=C(C=C(C=C1C)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)C)O)=O | C33H31BrO6S2
